US05281571
In an apparatus equipped with a Dean-Stark trap for azeotropic removal of water, 2.4 g (7.0 mmoles) 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzaldehyde, 0.4 mL (7.7 mmoles) ethylene glycol and a catalytic amount of p-toluene-sulfonic acid in 50 mL toluene was heated to reflux for 24 hours. The resultant mixture was concentrated and the residue purified by chromatography to give 1.65 g (61%) of 4-chloro-3-(4-chloro-5-(1,3-dioxolan-2-yl)-2-fluorophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole as a clear colorless oil; nD25 1.5348.

reactant | water | O | H2O
reactant | 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzaldehyde | 7.0 mmoles, 2.4 g | ClC1=C(C=O)C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C | C12H6Cl2F4N2O
reactant | ethylene glycol | 7.7 mmoles, 0.4 mL | C(CO)O | C2H6O2
reactant | p-toluene-sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-3-(4-chloro-5-(1,3-dioxolan-2-yl)-2-fluorophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 1.65 g, 61% | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)C1OCCO1)Cl)F | C14H10Cl2F4N2O2
